US08114867B2
29.i. 3-(6-methoxy-[1,5]naphthyridin-4-yl)-prop-2-yn-1-ol
A solution of 8-bromo-2-methoxy-[1,5]naphthyridine (4.0 g, 16.7 mmol, prepared as in WO 2006/032466) and propargylalcohol (1.9 g, 33.5 mmol) in DMF (50 mL) and TEA (10.16 g, 100 mmol) was degassed by bubbling N2 through for 10 min. CuI (0.318 g, 1.6 mmol) and Pd(PPh3)2Cl2 (0.588 g, 0.84 mmol) were added and the brown solution was stirred at rt overnight. The mixture was partitioned between water and EtOAc and the org. layer was washed several times with water and a sat. NH4Cl solution, dried over MgSO4 and concentrated. Chromatography on SiO2 (Hex/EA 1:1, EA) followed by crystallization from ether gave the coupling product as a beige solid (1.95 g, 54% yield).

reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | 16.7 mmol, 4.0 g | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | propargylalcohol | 33.5 mmol, 1.9 g | C(C#C)O | C3H4O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1.6 mmol, 0.318 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.84 mmol, 0.588 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(6-methoxy-[1,5]naphthyridin-4-yl)-prop-2-yn-1-ol | 1.95 g, 54% yield | COC=1N=C2C(=CC=NC2=CC1)C#CCO | C12H10N2O2
